US07375087B2
3-(β-D-Galactopyranosyloxy)-4-[(4-{3-[1-{[4-(2-hydroxyethyl)-piperazin-1-yl]carbonyl}-1-(methyl)-ethylcarbamoyl]-propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{3-[1-carboxy-1-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole (30 mg) in N,N-dimethylformamide (0.5 mL) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (12 mg), 1-hydroxybenzotriazole (9 mg) and 1-(2-hydroxyethyl)-piperazine (54 mg), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 5 mol/L aqueous sodium hydroxide solution (0.25 mL), and the resulting mixture was stirred at room temperature for 1 hour. To the reaction mixture was added acetic acid (0.1 mL), and the mixture was diluted with water (1 mL). The insoluble material was removed by filtration, and the filtrate was purified by preparative reverse phase column chromatography (Shiseido CAPCELL PAK UG120 ODS, 5 μL, 120 Å, 20×50 mm, flow rate 30 mL/minute linear gradient, water/acetonitrile=90/10-10/60) to give the title compound (4 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{3-[1-carboxy-1-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | 30 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)CCCC(NC(C)(C)C(=O)O)=O)C(C)C | C35H47N3O13
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 12 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 9 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(2-hydroxyethyl)-piperazine | 54 mg | OCCN1CCNCC1 | C6H14N2O
reactant | sodium hydroxide | 5 mol/L, 0.25 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | water | 1 mL | O | H2O
solvent | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
product | 3-(β-D-Galactopyranosyloxy)-4-[(4-{3-[1-{[4-(2-hydroxyethyl)-piperazin-1-yl]carbonyl}-1-(methyl)-ethylcarbamoyl]-propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | 4 mg | [C@@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)CCCC(NC(C)(C)C(=O)N1CCN(CC1)CCO)=O)C(C)C | C33H51N5O9
